US08466114B2
To a solution of (2S,3R,4R,5S,6R)-2-[3-[(4-benzylspiro[3H-1,4-benzoxazine-2,1′-cyclopropane]-6-yl)methyl]-4-chloro-phenyl]-6-(hydroxymethyl)tetrahydropyran-3,4,5-triol (300 mg) in methanol (3 mL), was added ethyl acetate (0.5 mL), 10% palladium on charcoal (40 mg), and 0.3 mL conc. HCl. The reaction mixture was stirred under hydrogen balloon pressure for 2 h then filtered through a celite bed which was washed with methanol, and the resulting filtrate was concentrated to a residue which was purified by preparative HPLC to furnish (2S,3R,4R,5S,6R)-2-[4-chloro-3-(spiro[3,4-dihydro-1,4-benzoxazine-2,1′-cyclopropane]-6-ylmethyl)phenyl]-6-(hydroxymethyl)tetrahydropyran-3,4,5-triol (56 mg).

reactant | (2S,3R,4R,5S,6R)-2-[3-[(4-benzylspiro[3H-1,4-benzoxazine-2,1′-cyclopropane]-6-yl)methyl]-4-chloro-phenyl]-6-(hydroxymethyl)tetrahydropyran-3,4,5-triol | 300 mg | C(C1=CC=CC=C1)N1CC2(CC2)OC2=C1C=C(C=C2)CC=2C=C(C=CC2Cl)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO | C30H32ClNO6
reactant | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
reactant | HCl | 0.3 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium on charcoal | 40 mg | [Pd] | Pd
product | (2S,3R,4R,5S,6R)-2-[4-chloro-3-(spiro[3,4-dihydro-1,4-benzoxazine-2,1′-cyclopropane]-6-ylmethyl)phenyl]-6-(hydroxymethyl)tetrahydropyran-3,4,5-triol | 56 mg | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC=1C=CC2=C(NCC3(CC3)O2)C1 | C23H26ClNO6
